Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Droperidol / Phenergan
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yoF w/ a h/o chronic abdominal pain, presents with acute 
onset abdominal pain.  She states the pain began hours after 
eating ___ food the night prior to admission, she states the 
___ food tasted like it had gone bad.  She had crampy abd 
pain, mainly in the LLQ and associated n/v.  No hematemesis and 
no blood in her stool or melena.  Sm amt of diarrhea this a.m.  
She denies any urinary complaints, no CP, no sob, no fevers, + 
chills x 1 after vomiting earlier this a.m.  No other 
complaints, rest of ROS is negative.

In the ER initial VS were: T 98.1 HR 54 BP 154/92 RR 20 O2 sat: 
99% on RA.  The patient rec'd 4mg IV morphine x 2 and zofran 4mg 
IV x 1.  She rec'd 1 L IVF.  Her pain and nausea has limited her 
ability to take PO.  4mg IV morhpine with some effect but 
wearing off after 1 hour.  Pelvic exam normal in ER. She also 
underwent a transvaginal ultrasound which revealed a hemorrhagic 
L ovarian cyst which will require f/u in 6 wks.  Admitted for 
pain control, also unable to take PO in ER.
 
Past Medical History:
1. Chronic abdominal pain
2. Status post appendectomy age ___.
3. History of depression.
4. Gastritis/H. pylori treated in ___.
5. Gonorrhea status post treatment
 
Social History:
___
Family History:
Father, ___ y/o,living with unknown medical history.  Mother, ___ 
y/o, living with thyroid problem.  2 Half-Sisters and 1 
Half-brother from her father's side, all healthy.  
 
Physical Exam:
VS: T 98.5  HR 62  BP 132/87  RR 12  O2 95% on RA
GEN: NAD, AOX3 
HEENT: MMM, OP CLEAR
CARD: RRR, physiologic split S2, no murmurs
PULM: CTAB
ABD: soft, NT, ND, no masses or organomegaly
EXT: WWP, no c/c/e
NEURO: AOx3, grossly normal
 
Pertinent Results:
___ 
TRANSVAGINAL ULTRASOUND: (prelim)*
1) No evidence of torsion.
2) Left adnexal complex cyst, likely hemorrhagic/corpus leuteal 
cyst. 6 wks follow up to ensure resolution. 

___ 10:00AM 
WBC-14.6*# RBC-4.81 Hgb-13.5 Hct-41.1 MCV-86 MCH-28.1 MCHC-32.9 
RDW-14.3 Plt ___
Neuts-75.6* ___ Monos-3.6 Eos-2.1 Baso-0.8
Glucose-125* UreaN-11 Creat-1.1 Na-142 K-3.5 Cl-106 HCO3-24 
AnGap-16
ALT-16 AST-17 AlkPhos-55 TotBili-0.2
Lipase-19

OLD STUDIES: 
CT ABD/PELVIS WITH CONTRAST ___: 
Mild diffuse concentric wall thickening throughout the colon is 
suggestive of a pancolitis, most likely infectious in etiology, 
although inflammatory etiologies could be considered. No 
evidence of obstruction or stricture. 

EGD ___: 
Esophagus: Normal esophagus 
Stomach: Normal stomach 
Duodenum: Normal duodenum 
Impression: Normal EGD to third part of the duodenum

___ 01:20PM BLOOD WBC-10.8 RBC-4.14* Hgb-11.7* Hct-36.1 
MCV-87 MCH-28.2 MCHC-32.4 RDW-13.6 Plt ___
___ 01:20PM BLOOD Glucose-89 UreaN-9 Creat-0.9 Na-143 K-3.4 
Cl-107 HCO3-27 AnGap-___ yoF w/ a h/o chronic abdominal pain presents with 1 day of 
LLQ abdominal pain.

# ABDOMINAL PAIN: pain likely represents food poisoning vs viral 
gastroenteritis and. Slthough symptoms are similar to her 
previous bouts of her chronic abd pain flares, the coiniciding 
around eating food which she thought was tainted is suggestive 
of the former.  Urine HCG negative but Hemorrhagic cyst on u/s 
was seen which is also a possible cause of her LLQ abdominal 
pain as well.  She has had an extensive workup including 
multiple CT scans, porphyria w/u, serotonin syndrome w/u, fecal 
fat testing and cystic fibrosis w/u, hepatitis screening, 
hemoglobin electrophoresis which has ruled out sickle cell and 
EGD.

Her pain resolved with conservative management and advanced diet 
was tolerated so she was discharged home with instructions to 
f/u  pelvic ultrasound in 6 weeks.

# L complex ovarian cyst: likely corpus leuteal cyst vs 
hemorrhagic cyst.  Recommended 6 wk follow up.

 
Medications on Admission:
none
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain - possible food poisoning
L complex ovarian cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with abdominal pain and loose stool one hour 
after eating ___ food which you thought tasted funny.  You 
lab studies did not suggest infection or pancreatitis. A pelvic 
ultrasound showed a complex L ovarian cyst which could be 
normally seen during your menstrual cycle vs a cyst with some 
blood in it.  A pregnancy test was negative. You were treated 
conservatively to control the pain and nausea. Your pain 
resolved.  Your diet was advanced to regular, which was 
tolerated prior to discharge.

You need to follow up with your PCP and get ___ repeat pelvic 
ultrasound done in SIX WEEKS to re-evaluate the above ultrasound 
finding.
 
Followup Instructions:
___